US07767672B2
Ethyl 2-(6-(5-methyl-1H-pyrazol-3-ylamino)-2-chloropyrimidin-4-yl)acetate
A solution of ethyl 2-(2,6-dichloropyrimidin-4-yl)acetate (1.0 g, 4.25 mmol), sodium iodide (0.637 g, 4.25 mmol), 3-amino-5-methylpyrazole (0.413 g, 4.25 mmol), and N,N-diisopropylethylamine (0.96 ml, 5.53 mmol) was heated at 90° C. until reaction was complete (˜3 h). Reaction mixture was then cooled to room temperature, diluted with ethyl acetate (100 ml), washed with sat. sodium hydrogen carbonate solution (1×30 ml), water (3×30 ml), brine (30 ml), dried (MgSO4), filtered and evaporated in vacuo to leave an orange oil. Crude product was purified by flash chromatography (SiO2, 60-100% EtOAc/Petrol) to give title compound as a red sticky oil (0.520 g, 41%). 1H NMR (CDCl3) 1.29 (3H, t), 2.41 (3H, s), 3.52 (2H, s), 4.23 (2H, q), 5.20-4.60 (2H, very broad signal); ES+ 296.

reactant | ethyl 2-(2,6-dichloropyrimidin-4-yl)acetate | 4.25 mmol, 1.0 g | ClC1=NC(=CC(=N1)CC(=O)OCC)Cl | C8H8Cl2N2O2
reactant | sodium iodide | 4.25 mmol, 0.637 g | [I-].[Na+]
reactant | 3-amino-5-methylpyrazole | 4.25 mmol, 0.413 g | NC1=NNC(=C1)C | C4H7N3
reactant | N,N-diisopropylethylamine | 5.53 mmol, 0.96 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | Ethyl 2-(6-(5-methyl-1H-pyrazol-3-ylamino)-2-chloropyrimidin-4-yl)acetate | 0.520 g, 41% | CC1=CC(=NN1)NC1=CC(=NC(=N1)Cl)CC(=O)OCC | C12H14ClN5O2
